US05128355
A solution of 0.10 g of 1-[(3'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5hydroxymethylimidazole, 5 mg of N,N-dimethylaminopyridine, 0.10 mL of acetic anhydride, and 0.14 mL of triethylamine in 8 mL of tetrahydrofuran was stirred for 4.5 hours at 25°. The reaction mixture was poured into water, and dilute aqueous sodium hydroxide was added until the pH of the solution remained in the range of pH 8-9. The solution was then acidified to pH 3.5 using 10% aqueous hydrochloric acid and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate and concentrated. Column chromatography on silica gel (elution: 0.5% i-propanol/chloroform) furnished 0.065 g of 1-[(3'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-acetoxymethylimidazole, m.p. 172°-173°; NMR (200 MHz, DMSO-d6): δ 8.17 (s, 1H); 7.93 (t, 1H); 7.61 (t, 1 H); 7.43 (A2M2, 4H); 5.32 (s, 1H); 4.99 (s, 1H); 2.60 (t, 2H); 1.76 (s, 3H); 1.53 (quint., 2H); 1.28 (sext., 2H); 0.82 (t, 3H).

reactant | 1-[(3'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5hydroxymethylimidazole | 0.10 g | C(=O)(O)C=1C=C(C=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C22H23ClN2O3
reactant | acetic anhydride | 0.10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 0.14 mL | C(C)N(CC)CC | C6H15N
product | 1-[(3'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-acetoxymethylimidazole | 0.065 g | C(=O)(O)C=1C=C(C=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1COC(C)=O)Cl)CCCC | C24H25ClN2O4
